US05801253
12.5 g of Zn-dust (activated by washing with HCl, H2O, EtOH, acetone, and EtOEt) and 1.89 g of freshly purified CuCl were refluxed in 120 ml of abs. EtOEt for 20 minutes. After cooling, 18.0 g of (Z)-3-(5,5,8,8-tetramethyl-5,6,7,8-tetrahydro-naphthalen-2-yl)-prop-2-en-1-ol, dissolved in 40 ml of EtOEt, were added, followed by 15.2 ml of CH2I2. The mixture was kept under reflux for 16 hours. Afterwards, it was poured onto crashed ice, extracted with EtOEt, washed with H2O, and dried over Na2SO4. Evaporation of the solvent and ensuing flash chromatography (silica gel, hexane/AcOEt=90:10) yielded 11.28 g of (1RS,2SR)-2-(5,5,8,8-tetramethyl-5,6,7,8-tetrahydro-naphthalen-2-yl)-cyclopropylmethanol as yellowish oil (GC-purity: 97.6%).

reactant | (Z)-3-(5,5,8,8-tetramethyl-5,6,7,8-tetrahydro-naphthalen-2-yl)-prop-2-en-1-ol | 18.0 g | CC1(C=2C=CC(=CC2C(CC1)(C)C)\C=C/CO)C | C17H24O
reactant | CH2I2 | 15.2 ml | C(I)I | CH2I2
solvent | EtOEt | 40 ml | CCOCC | C4H10O
catalyst | Zn | 12.5 g | [Zn] | Zn
catalyst | CuCl | Cl[Cu]
product | (1RS,2SR)-2-(5,5,8,8-tetramethyl-5,6,7,8-tetrahydro-naphthalen-2-yl)-cyclopropylmethanol | 11.28 g | CC1(C=2C=CC(=CC2C(CC1)(C)C)C1C(C1)CO)C | C18H26O
